US04332816
3-(N-methoxycarbonylamino)-1-(3,5-dichlorophenyl)-pyrrolidine-2,5-dione
12.9 g of N-methoxycarbonylaspartic anhydride are dissolved in 100 ml of tetrahydrofurane, and to this solution is added a solution of 12 g of 3,5-dichloroaniline in 50 ml of tetrahydrofurane. The reaction solution is stirred for 4 hours at 50° C. and then evaporated to dryness in vacuo. The residue is dissolved in 80 ml of acetic anhydride and then 2.5 g of sodium acetate are added and the solution is stirred for 11/2 hours at 80° C. After cooling to room temperature, the reaction mixture is poured into water and stirred vigorously for 1/2 hour. The mixture is extracted with ethyl acetate and the extracts are washed successively with saturated sodium bicarbonate solution and saturated sodium chloride solution, then dried over sodium sulfate, filtered and concentrated. Recrystallisation of the residue affords colourless crystals of the above compound with a melting point of 136°-138° C.

reactant | N-methoxycarbonylaspartic anhydride | 12.9 g | COC(=O)N[C@H]1CC(=O)OC1=O | C6H7NO5
reactant | 3,5-dichloroaniline | 12 g | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
solvent | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
product | 3-(N-methoxycarbonylamino)-1-(3,5-dichlorophenyl)-pyrrolidine-2,5-dione | COC(=O)NC1C(N(C(C1)=O)C1=CC(=CC(=C1)Cl)Cl)=O | C12H10Cl2N2O4
